US05753664
2-Tert-butyl-5-dimethylamino-4-formyl-3(2H)-pyridazinone
Phosphorus oxychloride (6.5 g) was added dropwise to DMF (15 ml) with ice-cooling and the mixture was stirred at room temperature for 30 minutes. Then, 2-t-butyl-5-dimethylamino-3(2H)-pyridazinone (3.3 g)/DMF (40 ml) was added dropwise with ice-cooling and the mixture was stirred at 70° C. for 1 hour. This reaction mixture was poured gradually into ice-NaHCO3 /water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate, and concentrated to dryness. The residue was washed with n-hexane and dried. Yellow powder, 3.7 g. 1H-NMR (CDCl3) δ: 1.63(9H,s), 3.10(6H,s), 7.71(1H,s), 10.27(1H,s).

reactant | Phosphorus oxychloride | 6.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-t-butyl-5-dimethylamino-3(2H)-pyridazinone | 3.3 g | C(C)(C)(C)N1N=CC(=CC1=O)N(C)C | C10H17N3O
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-Tert-butyl-5-dimethylamino-4-formyl-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)C=O)N(C)C | C11H17N3O2
